US08404670B2
245. Intermediate I-10: (2-(4-bromo-2-nitrophenylamino)ethanol)
A mixture of 4-bromo-1-fluoro-2-nitrobenzene (I-9, Aldrich, Wis.; 25 g, 0.11 mol) and 2-aminoethanol (13.9 g, 0.23 mol, 2.0 eq.) in n-butanol (300 mL) was heated under reflux for 1 hour. The reaction mixture was concentrated and the residue was dispersed in petrol ether (600 mL) and stirred overnight. The solids were iltered to give I-10 as a yellow powder (29 g, 98%). MS (ESI): m/z 262 (M+H+).

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 0.11 mol, 25 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 2-aminoethanol | 0.23 mol, 13.9 g, 2.0 eq. | NCCO | C2H7NO
solvent | n-butanol | 300 mL | C(CCC)O | C4H10O
product | 2-(4-bromo-2-nitrophenylamino)ethanol | 29 g, 98% | BrC1=CC(=C(C=C1)NCCO)[N+](=O)[O-] | C8H9BrN2O3
